reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[H:10])[C:6]([H:14])([H:15])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],70.36160721021653
[C:1]([C@@:2]1([H:10])[C:5]([N+:4]#[C-:3])=[N:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],58.5927878824747
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C-:4]([H:12])[O+:5]=[C:6]([H:13])[O:7]1)[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],19.414575891799004
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C@@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])[H:11])([H:8])[H:10].[H:9][H:12],117.450327599609
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:2](=[O:3])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],107.157050744706
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:14])[H:12])([H:7])([H:8])[H:9].[H:10][H:13],94.3041868229953
[C:1]([C:2](=[O:3])[C:4]([C:5][O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],25.140310446695295
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],77.7242229754664
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@@:5]1([O:6][H:10])[H:14])([H:7])([H:8])[H:9],98.9463537353237
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C-:5]=[O+:6][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],115.157425921833
[C:1]([C@@:2]1([O:3][H:11])[C@@:4]([O:5][H:14])([H:13])[C:6]1=[C:7]([H:12])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],79.13849036597334
[C:1]([C:2][C:3]([C@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],13.346933511551605
[C:1]([N:2]([C:3](=[O:4])[N:5]([C-:6]=[N+:7]([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],48.674163673853
[O:1]1[C:2]([H:8])([H:9])[C@:3]1([C:4]([C:5]([O:6][H:7])([H:13])[H:14])([H:11])[H:12])[H:10]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],58.47634283103698
[O:1]([C:2]([C@@:3]([C:4]([H:11])([H:12])[H:13])([O+:6]=[C-:5][H:14])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],37.2050882100555
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:8])[C@@:2]([C:3]([H:10])([H:11])[H:12])([H:9])[C@@:4]1([O:5][H:7])[H:13],88.41744325223499
[C:1]([C:2](=[C+:3][C:4]#[C-:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8],58.66195009142671
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:7][C:6]([H:13])=[O+:5][C-:4]1[H:12])[H:8],75.8423972852103
[C:1]([C:2](/[C:3]([O:5][H:16])=[C:6](\[C:4]([H:13])([H:14])[H:15])[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],34.2042074986412
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C:4][C@:7]1([H:17])[C@@:6]2([C:5]([H:13])([H:14])[H:15])[H:16]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],19.282286632429418
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([C:3]([C:4][H:12])([H:10])[H:11])([O:5][H:13])[H:9])([H:6])([H:7])[H:8],100.411921946557
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3]([O:5][H:16])=[C:6](\[C:4]([H:13])([H:14])[H:15])[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],74.7409601680048
[C:4](=[C:5]=[C:6]([H:7])[H:10])([H:8])[H:9].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7],80.7471379195346
[C:1]([C:2]([C:3]([C:5](=[C:4])[H:12])=[O:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],30.858684904432202
